### PR TITLE
[Merged by Bors] - feat(Order/WellFounded): the cardinality of a set is an upper-bound for the amount of elements before the set's mex

### PR DESCRIPTION
**Pull request by SnirBroshi**
The "mex" of a set is its minimum excluded value, see https://en.wikipedia.org/wiki/Mex_(mathematics)

---
Extracted from #35669

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Order/WellFounded.lean [hunk 1]
```diff
@@ -110,6 +110,14 @@ theorem min_eq_of_forall_not_lt [Std.Trichotomous r] (wf : WellFounded r) {s : S
     (hms : m ∈ s) (hrm : ∀ x ∈ s, ¬r x m) : wf.min s ⟨m, hms⟩ = m :=
   Std.Trichotomous.trichotomous _ m (hrm _ <| wf.min_mem s _) (wf.not_lt_min s _ hms)
 
+theorem notMem_of_lt_min {wf : WellFounded r} {s : Set α} {hs : s.Nonempty} {x : α}
+    (hx : r x (wf.min s hs)) : x ∉ s :=
+  (wf.not_lt_min s hs · hx)
+
+theorem mem_of_lt_min_compl {wf : WellFounded r} {s : Set α} {hs : sᶜ.Nonempty} {x : α}
+    (hx : r x (wf.min sᶜ hs)) : x ∈ s :=
+  Set.not_notMem.mp <| notMem_of_lt_min hx
```
Comment (Komyyy) [inline Mathlib/Order/WellFounded.lean]:
```suggestion
  Set.notMem_compl_iff.mp <| notMem_of_lt_min hx
```
This is more explicit, and reduces defeq.
```lean4
notMem_of_lt_min hx : x ∉ sᶜ
Set.not_notMem.mp : ¬x ∉ s → x ∈ s
Set.notMem_compl_iff.mp : x ∉ sᶜ → x ∈ s
```

File: Mathlib/SetTheory/Cardinal/Basic.lean [hunk 2]
```diff
@@ -1046,4 +1043,10 @@ theorem powerlt_zero {a : Cardinal} : a ^< 0 = 0 := by
   convert Cardinal.iSup_of_empty _
   exact Subtype.isEmpty_of_false fun x => mem_Iio.not.mpr (Cardinal.zero_le x).not_gt
 
+/-- The cardinality of a set is an upper-bound for the amount of elements before the set's mex
+(minimum excluded value) -/
+theorem _root_.WellFounded.mk_subtype_lt_min_compl_le_mk {r : α → α → Prop} (wf : WellFounded r)
+    {s : Set α} (hs : sᶜ.Nonempty) : #{ x // r x (wf.min sᶜ hs) } ≤ #s :=
```
Comment (Komyyy) [inline Mathlib/SetTheory/Cardinal/Basic.lean]:
```suggestion
theorem _root_.WellFounded.cardinalMk_subtype_lt_min_compl_le {r : α → α → Prop}
    (wf : WellFounded r) {s : Set α} (hs : sᶜ.Nonempty) : #{ x // r x (wf.min sᶜ hs) } ≤ #s :=
```
Unlike `Ordinal`, `WellFounded` is not a decl in `SetTheory`.
So, it's hard to infer `Cardinal.mk` from `mk`.

And, since the RHS can be inferred from the LHS, we can omit the RHS `cardinalMk`.

File: Mathlib/SetTheory/Ordinal/Basic.lean [hunk 3]
```diff
@@ -623,6 +623,11 @@ theorem card_zero : card 0 = 0 := mk_eq_zero _
 @[simp]
 theorem card_one : card 1 = 1 := mk_eq_one _
 
+variable (r) in
+theorem card_typein_min_le_mk [IsWellOrder α r] {s : Set α} (hs : sᶜ.Nonempty) :
```
Comment (Komyyy) [inline Mathlib/SetTheory/Ordinal/Basic.lean:629]: Can you also add the doc here?

**Review by Komyyy — COMMENTED** [review]
Thank you for your contribution!

BTW, I become the reviewer in the last Thursday.

**Review by Komyyy — APPROVED** [review]
Thank you!

maintainer merge
